US04812585
In 50 ml of toluene were dissolved 6.51 g (0.05 mole) of heptanoic acid and 10.26 g (0.06 mole) of monochloroacetic anhydride. To the resulting solution were added 4.43 g (0.065 mole) of furan and 0.71 g of boron trifluoride-diethyl ether complex and the resulting mixture was then stirred at 50° C. for 5.5 hours. After completion of the reaction, the reaction solution was cooled and washed with 5% aqueous sodium carbonate solution and water in this order. The organic layer was concentrated under reduced pressure and the resulting concentrated residue was then purified by silica gel-filled column chromatography to obtain 8.2 g of 2-heptanoylfuran.

reactant | heptanoic acid | 0.05 mole, 6.51 g | C(CCCCCC)(=O)O | C7H14O2
reactant | monochloroacetic anhydride | 0.06 mole, 10.26 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
reactant | furan | 0.065 mole, 4.43 g | O1C=CC=C1 | C4H4O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-heptanoylfuran | 8.2 g, Yield: 91% | C(CCCCCC)(=O)C=1OC=CC1 | C11H16O2
